US06326369B1
A hexane solution of n-butyl lithium (1.68 M, 13.1 ml, 22.0 mmols) was dropwise added to a THF (80 ml) solution of ethyl 10-(6-bromo-2,3,4,5-tetramethoxyphenyl)-9,9-diethoxycarbonyldecanoate (7.54 g, 12.2 mmols) under a nitrogen stream at −70° C. or lower The reaction mixture was stirred for 15 minutes, and then a THF (10 ml) solution of acetic acid (1.71 g, 28.5 mmols) was dropwise added thereto at −70° C. or lower. After having been allowed to warm to room temperature, the reaction mixture was concentrated in vacuo. A saturated aqueous sodium bicarbonate solution was added to the resulting residue, which was then extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, then dried, and distilled in vacuo. The resulting crude product was dissolved in ethanol (80 ml), to which was added sodium borohydride (923 mg, 24.4 mmols) with cooling with ice. The reaction mixture was allowed to warm to room temperature, and then stirred for 6 hours. Water was added thereto, and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, and then dried. The solvent was evaporated out in vacuo, and the resulting crude product was isolated through silica gel column chromatography (hexane:ethyl acetate=10:1 to 5:1) to obtain ethyl 8-(2-ethoxycarbonyl-1-hydroxy-4,5,6,7-tetramethoxyindan-2-yl)octanoate (3.77 g).

reactant | n-butyl lithium | 22.0 mmols, 1.68 M, 13.1 ml | C(CCC)[Li]
reactant | ethyl 10-(6-bromo-2,3,4,5-tetramethoxyphenyl)-9,9-diethoxycarbonyldecanoate | 12.2 mmols, 7.54 g | BrC1=C(C(=C(C(=C1CC(CCCCCCCC(=O)OCC)(C(=O)OCC)C(=O)OCC)OC)OC)OC)OC | C28H43BrO10
reactant | acetic acid | 28.5 mmols, 1.71 g | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 24.4 mmols, 923 mg | [BH4-].[Na+]
solvent | Water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | ethyl 8-(2-ethoxycarbonyl-1-hydroxy-4,5,6,7-tetramethoxyindan-2-yl)octanoate | 3.77 g | C(C)OC(=O)C1(C(C2=C(C(=C(C(=C2C1)OC)OC)OC)OC)O)CCCCCCCC(=O)OCC | C26H40O9
